US06506738B1
To a solution of 2-hydroxymethylbenzimidazole (29.63 g, 200 mmol) in a mixture of DMF/THF (150 mL, 1:1) was added sodium hydride (60% in mineral oil, 8.4 g, 210 mmol) in several portions at room temperature. After stirring for 1 hour, 4-bromobutyronitrile (29.6 g, 200 mmol) was added and the resulting solution was stirred at 80° C. for 16 hours. The solvent was evaporated and the residue diluted with water and extracted with EtOAc. The combined extracts were dried over MgSO4 and evaporated. The residue was purified by flash chromatography (gradient, EtOAc/hexane, 1:1 to 2:1, then EtOAc/MeOH, 10:1) to give 22.11 g (51% yield) 4-(2-hydroxymethyl-benzoimidazol-1-yl)-butyronitrile, 68 as a white solid.

reactant | 2-hydroxymethylbenzimidazole | 200 mmol, 29.63 g | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
reactant | sodium hydride | 210 mmol, 8.4 g | [H-].[Na+]
reactant | 4-bromobutyronitrile | 200 mmol, 29.6 g | BrCCCC#N | C4H6BrN
reactant | EtOAc MeOH | CCOC(=O)C.CO
solvent | DMF THF | 150 mL | CN(C)C=O.C1CCOC1
product | 4-(2-hydroxymethyl-benzoimidazol-1-yl)-butyronitrile | 22.11 g, 51% yield | OCC1=NC2=C(N1CCCC#N)C=CC=C2 | C12H13N3O
